US07479502B2
Proceeding as in Reference 19, but substituting 3-bromo-5-formyl-4-methoxy-benzenesulfonamide and 3-chlorobenzene boronic acid, gave 3′-chloro-5-formyl-6-methoxy-biphenyl-3-sulfonamide.

reactant | 3-bromo-5-formyl-4-methoxy-benzenesulfonamide | BrC=1C=C(C=C(C1OC)C=O)S(=O)(=O)N | C8H8BrNO4S
reactant | 3-chlorobenzene boronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 3′-chloro-5-formyl-6-methoxy-biphenyl-3-sulfonamide | ClC=1C=C(C=CC1)C1=CC(=CC(=C1OC)C=O)S(=O)(=O)N | C14H12ClNO4S
